US04582837
8-(2'-Methoxy-4'-ethanesulfonyloxy-phenyl)-purine
Prepared analogously to Example 1 from 8-(2'-methoxy-4'-hydroxy-phenyl)-purine and ethanesulfonic acid chloride.

reactant | 8-(2'-methoxy-4'-hydroxy-phenyl)-purine | COC1=C(C=CC(=C1)O)C1=NC2=NC=NC=C2N1 | C12H10N4O2
reactant | ethanesulfonic acid chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | 8-(2'-Methoxy-4'-ethanesulfonyloxy-phenyl)-purine | COC1=C(C=CC(=C1)OS(=O)(=O)CC)C1=NC2=NC=NC=C2N1 | C14H14N4O4S
